US08071779B2
N-(1-Benzylpiperidin-3-yl)pyridin-4-amine, Compound 3.001
Reaction of N-(piperidin-3-yl)pyridin-4-amine with the benzaldehyde using the method of Example 8 affords the title compound.

reactant | N-(piperidin-3-yl)pyridin-4-amine | N1CC(CCC1)NC1=CC=NC=C1 | C10H15N3
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
product | N-(1-Benzylpiperidin-3-yl)pyridin-4-amine | C(C1=CC=CC=C1)N1CC(CCC1)NC1=CC=NC=C1 | C17H21N3
